US09388173B2
Step 1: 1-((6-chloropyrazin-2-yl)amino)-3-(3,4-dihydroisoquinolin-2(1H)-yl)propan-2-ol
To a solution of 2,6-dichloropyrazine (150 mg, 1 mmol) in 5 mL i-PrOH was added 1-amino-3-(3,4-dihydroisoquinolin-2(1H)-yl)propan-2-ol (206 mg, 1 mmol), the solution sealed and the mixture heated at 130° C. for 2 h. After cooling, the solvent was evaporated and the residue used directly in the next step without purification. LCMS (m/z): 319 (M+1).

reactant | 2,6-dichloropyrazine | 1 mmol, 150 mg | ClC1=NC(=CN=C1)Cl | C4H2Cl2N2
reactant | 1-amino-3-(3,4-dihydroisoquinolin-2(1H)-yl)propan-2-ol | 1 mmol, 206 mg | NCC(CN1CC2=CC=CC=C2CC1)O | C12H18N2O
solvent | i-PrOH | 5 mL | CC(C)O | C3H8O
product | 1-((6-chloropyrazin-2-yl)amino)-3-(3,4-dihydroisoquinolin-2(1H)-yl)propan-2-ol | ClC1=CN=CC(=N1)NCC(CN1CC2=CC=CC=C2CC1)O | C16H19ClN4O
